US08026257B2
5-Bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole-7-carbaldehyde.
To a suspension of (5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methanol (675 mg, 1.889 mmol), 4-methylmorpholine 4-oxide (443 mg, 3.78 mmol), and molecular sieves (337 mg, 1.889 mmol) in dichloromethane (10 mL) at room temperature was added tetrapropylammonium perruthenate (19.9 mg, 0.057 mmol). After 1.5 h, the crude reaction mixture was loaded directly onto a pre-conditioned column of silica gel (silica gel/dichloromethane). The solvent was then switched directly to 12% EtOAc/Hex and the column run in that solvent system to give 565 mg (84%) as a colorless oil. 1H-NMR (CDCl3, 500 MHz) δ 10.31 (s, 1H), 8.11 (d, J=1.8, 1H), 8.05 (s, 1H), 8.03 (d, J=1.8, 1H), 6.04 (s, 2H), 3.45 (m, 2H), 0.81 (m, 2H), −0.12 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 188.9, 135.4, 135.0, 134.2, 130.0, 129.3, 123.0, 114.0, 81.2, 66.4, 17.8, −1.4.

reactant | (5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methanol | 1.889 mmol, 675 mg | BrC=1C=C2C=NN(C2=C(C1)CO)COCC[Si](C)(C)C | C14H21BrN2O2Si
reactant | 4-methylmorpholine 4-oxide | 3.78 mmol, 443 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 0.057 mmol, 19.9 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 5-Bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole-7-carbaldehyde | BrC=1C=C2C=NN(C2=C(C1)C=O)COCC[Si](C)(C)C | C14H19BrN2O2Si
